US08871782B2
Isopropyl isocyanate (190 μL, 1.93 mmol) was added to a stirred solution of N-{2-[4-amino-7-[(6-aminohexyl)oxy]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-1-isopropylurea (0.90 g, 1.75 mmol) in dichloromethane (50 mL) at 0° C. After approximately 30 minutes, the solution was allowed to warm to room temperature. A precipitate formed and the mixture was stirred over the weekend. The solvent was removed under reduced pressure and the crude product was purified by flash chromatography (silica gel, gradient elution with 8-10% methanol in dichloromethane) to provide a solid that was dried under vacuum at 60° C. to yield 0.34 g of N-(2-{4-amino-2-(ethoxymethyl)-7-[(6-{[(isopropylamino)carbonyl]amino}hexyl)oxy]-1H-imidazo[4,5-c]quinolin-1-yl}-1,1-dimethylethyl)-N′-1-isopropylurea as a tan solid, mp 205-209° C.

reactant | Isopropyl isocyanate | 1.93 mmol, 190 μL | C(C)(C)N=C=O | C4H7NO
reactant | N-{2-[4-amino-7-[(6-aminohexyl)oxy]-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-1,1-dimethylethyl}-N′-1-isopropylurea | 1.75 mmol, 0.90 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(=O)NC(C)C)COCC)OCCCCCCN | C27H43N7O3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2-{4-amino-2-(ethoxymethyl)-7-[(6-{[(isopropylamino)carbonyl]amino}hexyl)oxy]-1H-imidazo[4,5-c]quinolin-1-yl}-1,1-dimethylethyl)-N′-1-isopropylurea | 0.34 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)(C)NC(=O)NC(C)C)COCC)OCCCCCCNC(=O)NC(C)C | C31H50N8O4
